US04168315
A solution of 4,5-bis(p-methoxyphenyl)-2-thiazoleacetic acid, lithium salt (8.82 g.; 0.024 mole), methyl iodide (17.4 g.; 0.122 mole) and DMF (100 ml.) was stirred at ambient temperature for 16 hours. The mixture was poured into water (1.5 l.) and extracted with methylene chloride (500 ml.). The organic layer was washed with water (3×1.5 l.), saturated sodium bicarbonate (1.0 l.), water (1.5 l.), dried (sodium sulfate), and concentrated in vacuo. The oily residue was dissolved in acetone and applied directly to a Florisil-packed (340 ml.) gravity column (Florisil previously equilibrated with solvent mixture; 500 ml. packing: 100 ml. solvent). The sample was eluted with 5% acetone in hexane. The recovered product was recrystallized from diethyl ether-pentane to afford 3.32 g. (37% yield) of 4,5-bis(p-methoxyphenyl)-2-thiazoleacetic acid, methyl ester; m.p. 79°-81.5°.

reactant | 4,5-bis(p-methoxyphenyl)-2-thiazoleacetic acid | COC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)OC)CC(=O)O | C19H17NO4S
reactant | lithium | 0.024 mole, 8.82 g | [Li] | Li
reactant | methyl iodide | 0.122 mole, 17.4 g | CI | CH3I
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | 1.5 l | O | H2O
product | 4,5-bis(p-methoxyphenyl)-2-thiazoleacetic acid, methyl ester | 37% yield | COC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)OC)CC(=O)OC | C20H19NO4S
